US05495036
Preparation of diphenylmethyl potassium
To a solution of 18.3 g (109 mmol) of diphenylmethane in 400 mL of hexane were added 11.99 g (109 mmol) of potassium t-amylate. To the resulting pale yellow solution were added 68.75 mL of 1.60M (110 mmol) butyl lithium. The thick, bright orange slurry was stirred overnight. The solids were collected on a filter, washed three times with 100 mL, then twice with 50 mL of hexane, then dried under reduced pressure. The yield of bright orange powder was 18.23 g, 81.2 percent.

reactant | diphenylmethane | 109 mmol, 18.3 g | C1(=CC=CC=C1)CC1=CC=CC=C1 | C13H12
reactant | KOC(CH3)2C2H5 | 109 mmol, 11.99 g | O([K])C(C)(C)CC
reactant | butyl lithium | 110 mmol, 1.60M | C(CCC)[Li]
solvent | hexane | 400 mL | CCCCCC | C6H14
product | diphenylmethyl potassium | C1(=CC=CC=C1)C(C1=CC=CC=C1)[K] | InChI=1S/C13H11.K/c1-3-7-12(8-4-1)11-13-9-5-2-6-10-13;/h1-11H;
